US05723499
Following the basic procedure of Example 11, by reacting 430 mg (1 mmol) of methyl 2-hydroxy-4-[7-(1-adamantyl)-6-hydroxy-2-naphthyl]benzoate with 180 μl (1.2 mmol) of 6-iodohexane, 280 mg (55%) of methyl 2-hydroxy-4-[7-(1-adamantyl)-6-hexyloxy-2-naphthyl]benzoate were obtained.

reactant | methyl 2-hydroxy-4-[7-(1-adamantyl)-6-hydroxy-2-naphthyl]benzoate | 1 mmol, 430 mg | OC1=C(C(=O)OC)C=CC(=C1)C1=CC2=CC(=C(C=C2C=C1)O)C12CC3CC(CC(C1)C3)C2 | C28H28O4
reactant | 6-iodohexane | 1.2 mmol, 180 μl | ICCCCCC | C6H13I
product | methyl 2-hydroxy-4-[7-(1-adamantyl)-6-hexyloxy-2-naphthyl]benzoate | 280 mg, 55% | OC1=C(C(=O)OC)C=CC(=C1)C1=CC2=CC(=C(C=C2C=C1)OCCCCCC)C12CC3CC(CC(C1)C3)C2 | C34H40O4
